US08258169B2
To a stirred solution of nitroethane (8.3 g, 0.11 mol) in acetonitrile (150 ml) was added anhydrous potassium phosphate (1.0 g, 4.6 mmol) followed by 2,4-dichloro-benzaldehyde (17.5 g, 0.10 mol). The reaction mixture was stirred for 4 hours. Water (300 ml) was added and the reaction mixture was extracted with diethyl ether (200 ml). The organic extract was washed with water and dried over anhydrous Na2SO4, the solvent was removed and the resulting residue was purified by flash chromatography over silicagel (eluent:cyclohexane/ethylacetate 9:1). 20.7 g (82.5% of theory) of a threo/erythro-mixture of 1-(2,4-dichlorophenyl)-2-nitro-propan-1-ol was obtained. Crystallisation from cyclohexane yielded pure erythro 1-(2,4-dichlorophenyl)-2-nitro-propan-1-ol.

reactant | nitroethane | 0.11 mol, 8.3 g | [N+](=O)([O-])CC | C2H5NO2
reactant | potassium phosphate | 4.6 mmol, 1.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,4-dichloro-benzaldehyde | 0.10 mol, 17.5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | Water | 300 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(2,4-dichlorophenyl)-2-nitro-propan-1-ol | ClC1=C(C=CC(=C1)Cl)C(C(C)[N+](=O)[O-])O | C9H9Cl2NO3
